US04343811
(f) 2-Benzyloxy-7,8,9,10-tetrahydro-11-phenyl-6H-azepino[1,2-a]indole
An amount of 2.3 g (6 m mole) of 2-benzyloxy-7,8,9,10-tetrahydro-10-oxo-11-phenyl-6H-azepino[1,2-a]indole 4.5 ml of 80% hydrazine hydrate and 1.5 g of potassium hydroxide were heated in 6 ml of triethylene-glycol for two hours to 180° C. and for four hours to 220° C. After cooling, the reaction mixture was mixed with water and extracted with chloroform. After evaporation of the chloroform extracts, the residue was purified by column chromatography on silicagel (solvent: toluene). When the eluates were evaporated, colorless crystals were obtained.

reactant | 2-benzyloxy-7,8,9,10-tetrahydro-10-oxo-11-phenyl-6H-azepino[1,2-a]indole | 4.5 ml, 2.3 g | C(C1=CC=CC=C1)OC=1C=C2C(=C3N(C2=CC1)CCCCC3=O)C3=CC=CC=C3 | C26H23NO2
reactant | hydrazine hydrate | O.NN
reactant | potassium hydroxide | 1.5 g | [OH-].[K+]
reactant | water | O | H2O
solvent | triethylene-glycol | 6 ml | C(COCCOCCO)O | C6H14O4
product | 2-Benzyloxy-7,8,9,10-tetrahydro-11-phenyl-6H-azepino[1,2-a]indole | C(C1=CC=CC=C1)OC=1C=C2C(=C3N(C2=CC1)CCCCC3)C3=CC=CC=C3 | C26H25NO
